US05750531
Synthesis of 6-ethyl-4-(4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.30 ml, 3.17 mmol) was added to a mixture solution of 6-ethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.40 g, 1.46 mmol) and dimethylformamide(10 ml), 0.44 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoroaniline | 3.17 mmol, 0.30 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-ethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 1.46 mmol, 0.40 g | C(C)C1=CC(=NC(=N1)N1CC2=CC=CC=C2CC1)Cl | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-4-(4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.44 g, Yield: 78% | Cl.C(C)C1=CC(=NC(=N1)N1CC2=CC=CC=C2CC1)NC1=CC=C(C=C1)F | InChI=1S/C21H21FN4.ClH/c1-2-18-13-20(23-19-9-7-17(22)8-10-19)25-21(24-18)26-12-11-15-5-3-4-6-16(15)14-26;/h3-10,13H,2,11-12,14H2,1H3,(H,23,24,25);1H
